US07217723B2
5-(1-Hydroxy-2-methylpropyl)thiophene-3-sulfonic acid [2-(4-fluorophenyl)ethyl]-methyl-amide
To a solution of 5-formylthiophene-3-sulfonic acid [2-(4-fluorophenyl)ethyl]-methyl-amide (138 mg) in tetrahydrofuran (2 mL) was added dropwise a solution (0.25 mL) of 2.0M isopropyl magnesium bromide-tetrahydrofuran on an ice bath. After stirring for 1 hour, an aqueous solution of saturated ammonium chloride was added, and the solution was extracted with ethyl acetate. After drying the organic layer with anhydrous sodium sulfate, the residue that was obtained upon removing the solvent by evaporation was purified by silica gel column chromatography (hexane/ethyl acetate) and the title compound (57 mg) was obtained as a yellow oily substance.

reactant | 5-formylthiophene-3-sulfonic acid [2-(4-fluorophenyl)ethyl]-methyl-amide | 138 mg | FC1=CC=C(C=C1)CCN(S(=O)(=O)C1=CSC(=C1)C=O)C | C14H14FNO3S2
reactant | isopropyl magnesium bromide tetrahydrofuran | 2.0M, 0.25 mL | C(C)(C)[Mg]Br.O1CCCC1
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 2 mL | O1CCCC1 | C4H8O
product | 5-(1-Hydroxy-2-methylpropyl)thiophene-3-sulfonic acid [2-(4-fluorophenyl)ethyl]-methyl-amide | 57 mg | FC1=CC=C(C=C1)CCN(S(=O)(=O)C1=CSC(=C1)C(C(C)C)O)C | C17H22FNO3S2
